US07317027B2
(iv) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
To a solution of 461 mg (1.27 mmol) ) 5-(2-Methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide in 20 mL absolute DMF 46 mg (1.91 mmol) NaH (96%) were added in an argon atmosphere. The mixture was stirred for 15 min. at room temperature. 479 mg (1.91 mmol) 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide were added and the mixture stirred for 3 h at room temperature. The solvent was removed in vacuo, the residue dissolved in CH2Cl2 and the CH2Cl2 phase washed with H2O and dried over Na2SO4. After filtration, the organic phase was concentrated and the residue purified by chromatography over silica gel using CH2Cl2/MeOH/HOAc/H2O=90/10/1/1 as eluent followed by preparative HPLC (eluent: CH3CN/H2O/0.1% CF3COOH). The fractions containing the product were combined and concentrated in vacuo. The residue was lyophilized with 2 equivalents 1N HCl in a H2O/CH3CN mixture yielding the hydrochloride salt of the desired product.

reactant | 5-(2-Methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=CC=2C(=CN=C(C2)OCCOC)N1 | C19H28N4O3
reactant | DMF | 1.91 mmol, 20 mL, 46 mg | CN(C)C=O | C3H7NO
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 1.91 mmol, 479 mg | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
reactant | HCl | 1N, 2 equivalents | Cl | ClH
solvent | H2O CH3CN | O.CC#N
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=CC=2C(=CN=C(C2)OCCOC)N1CC(NC1=NC=C(C=C1)Cl)=O | C26H33ClN6O4
